US05021412
10 g of 4-trifluoromethylbenzylamine was added dropwise at -10° C. with stirring to a mixture of 11.78 g of DCC, 25 ml of carbon disulfide and 50 ml of diethyl ether. The temperature of the mixture was returned to room temperature, and it was left to stand for 12 hours. The reaction solution was filtered, and the residue was washed with diethyl ether. The filtrate and the washing were combined, and the solvent was evaporated under reduced pressure. The resulting oily product was purified by column chromatography silica gel; developing solvent hexane/ethyl acetate (10:1)]to give 11.15 g of the desired 4-trifluoromethylbenzyl isothiocyanate.

reactant | 4-trifluoromethylbenzylamine | 10 g | FC(C1=CC=C(CN)C=C1)(F)F | C8H8F3N
reactant | DCC | 11.78 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | carbon disulfide | 25 ml | C(=S)=S | CS2
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 4-trifluoromethylbenzyl isothiocyanate | 11.15 g | FC(C1=CC=C(CN=C=S)C=C1)(F)F | C9H6F3NS
